US04636457
Preparation of N,N'-bis-(1,2,4-triazolyl)-thiourea
A 3,000 ml multinecked flask provided with a reflux condenser and placed on a water bath was filled with 156.2 g (0.8964 mole) of N-1,2,4-triazolyl-dithiocarbamic acid methyl ester, prepared as described in U.S. Pat. No. 3,686,201, 1,700 ml of dimethylformamide, 75.37 g (0.8964 mole) of 3-amino-1,2,4-triazole. The reaction mixture was heated for 24 hours thus obtaining first a solution and then the formation of a precipitate. The suspension was filtered, the product thus obtained washed with methanol and then dried thus obtaining 109.3 g of a white product (Yield 57%).

reactant | N-1,2,4-triazolyl-dithiocarbamic acid methyl ester | 0.8964 mole, 156.2 g | CSC(NC1=NNC=N1)=S | C4H6N4S2
reactant | 3-amino-1,2,4-triazole | 0.8964 mole, 75.37 g | NC1=NNC=N1 | C2H4N4
solvent | dimethylformamide | 1,700 ml | CN(C=O)C | C3H7NO
product | N,N'-bis-(1,2,4-triazolyl)-thiourea | 109.3 g, Yield 57% | N1N=C(N=C1)NC(=S)NC1=NNC=N1 | C5H6N8S
